US05990102
a. 6-(3-chlorophenyl)hexyn-1-ol
A stirred mixture of 3-chloroiodobenzene (14.3 g, 60 mmol), tetrakis(triphenylphosphine) palladium (2.1 g, 1.8 mmol) and 5-hexyn-1-ol (5.9 g, 60 mmol) in triethylamine (120 ml) was stirred at 25° C. for 3 h and partitioned between water and ether. The ether layer was separated and the aqueous extracted with ether. The combined either extracts were washed with 1N HCl and dried (Na2SO4). The ether was evaporated and the residue purified by flash chromatography on silica using dichloromethane as eluant. Evaporation of the appropriate fractions gave the product as an oil (11.5 g 92%)

reactant | 3-chloroiodobenzene | 60 mmol, 14.3 g | ClC=1C=C(C=CC1)I | C6H4ClI
reactant | 5-hexyn-1-ol | 60 mmol, 5.9 g | C(CCCC#C)O | C6H10O
solvent | triethylamine | 120 ml | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine) palladium | 1.8 mmol, 2.1 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 6-(3-chlorophenyl)hexyn-1-ol | 11.5 g, 92% | ClC=1C=C(C=CC1)CCCCC#CO | C12H13ClO
